US07572792B2
tert-butyl 3-{[(2-chloro-3,6-difluorobenzoyl)amino]methyl}-3-(1-methylpiperidin-2-yl)azetidine-1-carboxylate
2-chloro-3,6-difluorobenzoyl chloride (0.38 ml, 2.7 mmol) was added to tert-butyl 3-(aminomethyl)-3-(1-methylpiperidin-2-yl)azetidine-1-carboxylate (0.55 g, 1.9 mmol) in dichloromethane (6 ml) and triethylamine (0.54 ml, 3.9 mmol) at 0° C. The reaction was stirred at 0° C. for 15 mins, before warming to room temperature. After 30 mins, lc-ms showed complete consumption of starting material. The reaction was quenched and the resulting mixture was partitioned between dichloromethane and water. The organic phase was washed with brine, dried over anhydrous magnesium sulfate and evaporated to dryness. Purification by flash column chromatography on silica gel eluting with dichloromethane (containing 1% ammonia) on a gradient of methanol (0-8%) led to tert-butyl 3-{[(2-chloro-3,6-difluorobenzoyl)amino]methyl}-3-(1-methylpiperidin-2-yl)azetidine-1-carboxylate as a white solid. m/z (M++H) 458.

reactant | 2-chloro-3,6-difluorobenzoyl chloride | 2.7 mmol, 0.38 ml | ClC1=C(C(=O)Cl)C(=CC=C1F)F | C7H2Cl2F2O
reactant | tert-butyl 3-(aminomethyl)-3-(1-methylpiperidin-2-yl)azetidine-1-carboxylate | 1.9 mmol, 0.55 g | NCC1(CN(C1)C(=O)OC(C)(C)C)C1N(CCCC1)C | C15H29N3O2
reactant | triethylamine | 3.9 mmol, 0.54 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | tert-butyl 3-{[(2-chloro-3,6-difluorobenzoyl)amino]methyl}-3-(1-methylpiperidin-2-yl)azetidine-1-carboxylate | ClC1=C(C(=O)NCC2(CN(C2)C(=O)OC(C)(C)C)C2N(CCCC2)C)C(=CC=C1F)F | C22H30ClF2N3O3
